US06255285B1
To a solution of 183 mg (0.290 mmol) of Z-Phe-Val-N-Me-Tyr(3-tBu)-NH2 in 3 ml of methanol, 100 mg of 10% palladium carbon was added and the mixture was stirred in a hydrogen atmosphere at room temperature for 5 hours. After filtering, the filtrate was concentrated under reduced pressure and the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:methanol=10:1) to yield Phe-Val-N-Me-Tyr(3-tBu)-NH2 in the amount of 108 mg (75%). NMR(method g,CDCl3): δ 0.69(3H,dd,J=6.9,17.8 Hz), 0.89(3H,dd,J=6.9,14.5 Hz), 1.36(9/2H,s), 1.39(9/2H,s), 2.67(1H,dd,J=9.6,13.5 Hz), 2.78-2.94(1H,m), 2.97(3/2H,s), 3.09(3/2H,s), 3.12-3.40(2H,m), 3.59(1H,ddd,J=3.6,9.3,10.2 Hz), 4.34-4.42(1/2H,m), 4.68(1/2H,dd,J=6.6,11.1 Hz), 4.79(1/2H,dd,J=7.9,8.9 Hz), 5.18-5.26(1/2H,m), 5.35(1/2H,brs), 5.49(1/2H,brs), 6.60(1H,dd,J=7.9,12.2 Hz), 6.86(1H,ddd,J=1.6,6.3,6.3 Hz), 7.06(1H,s), 7.16-7.34(5H,m), 7.76(1/2H,brs), 7.85(1/2H,d,J=8.9 Hz), 7.95(1/2H,d,J=7.9 Hz).

reactant | Z-Phe-Val-N-Me-Tyr(3-tBu)-NH2 | 0.290 mmol, 183 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OCC1=CC=CC=C1 | C36H46N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | Phe-Val-N-Me-Tyr(3-tBu)-NH2 | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C | C28H40N4O4
